US05977110
A suspension of lithium aluminum hydride (0.45 g, 11.85 mmol) is cooled in an ice water bath and treated with a solution of trans-[4-(pyrimidin-2-ylamino)-cyclohexyl]-acetic acid ethyl ester (2.09 g, 7.9 mmol) in THF (15 mL) over 20 minutes. After stirring for 5 minutes, the ice bath is removed, and the reaction is stirred for an additional 40 minutes. The reaction is quenched with water, and sodium hydroxide is added. The mixture is stirred for 1 hour and is filtered through Celite and the filtrate evaporated to give trans-2-[4-(pyrimidin-2-ylamino)-cyclohexyl]-ethanol which is used without further purification.

reactant | lithium aluminum hydride | 11.85 mmol, 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-[4-(pyrimidin-2-ylamino)-cyclohexyl]-acetic acid ethyl ester | 7.9 mmol, 2.09 g | C(C)OC(C[C@@H]1CC[C@H](CC1)NC1=NC=CC=N1)=O | C14H21N3O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | trans-2-[4-(pyrimidin-2-ylamino)-cyclohexyl]-ethanol | N1=C(N=CC=C1)N[C@@H]1CC[C@H](CC1)CCO | C12H19N3O
